US07842830B2
1-[4(tert-Butyldimethylsilanyloxy)phenyl]ethanone (JYC-I-140-A).
To a stirred solution of 4-hydroxybenzaldehyde (20.0 g, 0.16 mol) in 200 mL of CH2Cl2 at 0° C., imidazole (24.5 g, 0.36 mol) and tBuSiMe2Cl (27.2 g, 0.18 mol) were added. The reaction mixture was stirred at 25° C. for 1 h. The reaction mixture was diluted with H2O and extracted with CH2Cl2. The organic phase was dried over anhydrous MgSO4 and the solvent was removed under reduced pressure. The crude product was purified by column chromatography (silica gel, hexanes:ethyl acetate=50:1 (v/v)) to give colorless oil (35.63 g, 86.9%). 1H NMR (300 MHz, CDCl3, δ): 9.86 (s, 2H), 7.77 (d, J=8.8 Hz, 2H), 6.92 (d, J=8.8 Hz, 2H), 0.97 (s, 9H), 0.23 (s, 6H). 13C{1H} NMR (75 MHz, CDCl3, δ): 190.76, 161.49, 131.87, 130.50, 120.47, 25.55, 18.25, −4.37. HRMS-FAB (m/z): [M+H]+ calcd for C14H23O2Si, 251.1467; found, 251.1469.

reactant | 4-hydroxybenzaldehyde | 0.16 mol, 20.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | imidazole | 0.36 mol, 24.5 g | N1C=NC=C1 | C3H4N2
reactant | tBuSiMe2Cl | 0.18 mol, 27.2 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 1-[4(tert-Butyldimethylsilanyloxy)phenyl]ethanone | 35.63 g, 86.9% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C(C)=O | C14H22O2Si
